US08648069B2
tert-Butyl 5-bromo-1H-indazole-1-carboxylate
5-Bromoindazole (4.40 g, 22.3 mmol) and a catalytic amount of dimethylaminopyridine (˜50 mg) were dissolved in dichloromethane (100 mL). Di-tert-butyl dicarbonate (5.43 g, 24.9 mmol) was added, and the mixture was stirred at ambient temperature overnight. The mixture was absorbed on silica gel and purified by silica gel chromatography eluting with a gradient of 0-40% ethyl acetate in hexanes to afford the title compound. MS (ESI+) m/z 297.2 (M+H)+.

reactant | 5-Bromoindazole | 22.3 mmol, 4.40 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | dimethylaminopyridine | ˜50 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Di-tert-butyl dicarbonate | 24.9 mmol, 5.43 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | tert-Butyl 5-bromo-1H-indazole-1-carboxylate | BrC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C12H13BrN2O2
